US06166203
A mixture of 4-chloro-6-phenyl-thieno[2,3-b]pyridine (200 mg, 0.82 mmole) and ethyl isonipecotate (5 mL) is stirred and heated in an oil bath at 170° C. for 6 hours. The reaction mixture is cooled and purified on a preparative tlc plate to give ethyl 1-(6-phenylthieno[2,3-b]pyridin-4-yl)-4-piperidinecarboxylate (100 mg, 33% yield) as a colorless oil.

reactant | 4-chloro-6-phenyl-thieno[2,3-b]pyridine | 0.82 mmole, 200 mg | ClC1=C2C(=NC(=C1)C1=CC=CC=C1)SC=C2 | C13H8ClNS
reactant | ethyl isonipecotate | 5 mL | N1CCC(C(=O)OCC)CC1 | C8H15NO2
product | ethyl 1-(6-phenylthieno[2,3-b]pyridin-4-yl)-4-piperidinecarboxylate | 100 mg, 33% yield | C1(=CC=CC=C1)C1=CC(=C2C(=N1)SC=C2)N2CCC(CC2)C(=O)OCC | C21H22N2O2S
